US06953793B2
C. (2-Amino-5-chloro-phenyl)-acetic acid ethyl ester.
(5-Chloro-2-nitro-phenyl)-acetic acid ethyl ester (5.9 g, 24.2 mmol) in benzene (125 mL) containing PtO2 (500 mg) was placed on a Parr hydrogenator at 40 psi H2. After 18 h the mixture was filtered through celite and evaporated to give a clear brown liquid. The liquid was purified (silica, 25% EtOAc/hexanes) to give 3.3 g (64%) of a clear golden liquid. TLC (silica, 25% EtOAc/hexanes): Rf=0.30. MS (electrospray): exact mass calculated for C10H12ClNO2, 213.06. m/z found, 214.1 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.20-7.10 (m, 2H), 6.78 (d, J=8.3 Hz, 1H), 4.26 (q, J=7.2, 2H), 1.18 (t, J=7.1 Hz, 3H).

reactant | (5-Chloro-2-nitro-phenyl)-acetic acid ethyl ester | 24.2 mmol, 5.9 g | C(C)OC(CC1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O | C10H10ClNO4
solvent | benzene | 125 mL | C1=CC=CC=C1 | C6H6
catalyst | PtO2 | 500 mg | O=[Pt]=O
product | (2-Amino-5-chloro-phenyl)-acetic acid ethyl ester | 3.3 g, 64% | C(C)OC(CC1=C(C=CC(=C1)Cl)N)=O | C10H12ClNO2
